US05883102
4'-Amino-5'-fluoro-1-(1 H-imidazol-1-ylcarbonyl)spiro[piperidine-4,2'(1'H) -quinazoline]hydrochloride
1-(1H-Imidazol-1-ylcarbonyl)-4-piperidone ethylene ketal (Example EE, 156 mg., 0.66 mmol) was added to 2-amino-6-fluorobenzamidine dihydrochloride (150 mg, 0.66 is mmol) in ethanol (10 ml) together with an excess of HCl (1M in ether). This mixture was heated to 55° C. overnight, concentrated in vacuo and purified by flash column chromatography eluting with dichloromethane, increasing the gradient to dichloromethane/methanol (10:1), to give a solid which triturated from ethanol/ether to give yellow crystals, m.p. 260° C. (dec.).

reactant | 1-(1H-Imidazol-1-ylcarbonyl)-4-piperidone ethylene ketal | 0.66 mmol, 156 mg | C1COC2(CCN(CC2)C(=O)N2C=NC=C2)O1 | C11H15N3O3
reactant | 2-amino-6-fluorobenzamidine dihydrochloride | 150 mg | Cl.Cl.NC1=C(C(=N)N)C(=CC=C1)F
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4'-Amino-5'-fluoro-1-(1 H-imidazol-1-ylcarbonyl)spiro[piperidine-4,2'(1'H) -quinazoline]hydrochloride | Cl.NC1=NC2(NC3=CC=CC(=C13)F)CCN(CC2)C(=O)N2C=NC=C2 | InChI=1S/C16H17FN6O.ClH/c17-11-2-1-3-12-13(11)14(18)21-16(20-12)4-7-22(8-5-16)15(24)23-9-6-19-10-23;/h1-3,6,9-10,20H,4-5,7-8H2,(H2,18,21);1H
